US06890916B2
2d, 5-Chloro-3-{1-[4-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)butan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride
from 5-chloro-3-(piperidin-4-yl)-1H-indole and 1-(4-bromobutan-1-yl)-3,4-dihydroquinolin-2(1H)-one. Mp 229-231° C. 1H NMR (DMSO-d6): 1.55-1.65 (m, 2H); 1.70-1.80 (m, 2H); 2.00-2.15 (m, 4H); 2.55 (t, 2H); 2.85 (t, 2H); 2.95-3.15 (m, 5H); 2.55 (d, 2H); 3.95 (t, 2H); 7.00 (t, 1H); 7.05 (d, 1H); 7.15 (d, 1H); 7.20-7.30 (m, 3H); 7.40 (d, 1H); 7.75 (s, 1H); 10.05 (broad s, 1H); 11.10 (s, 1H). MS m/z: 436 (MH+).

reactant | 5-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | 1-(4-bromobutan-1-yl)-3,4-dihydroquinolin-2(1H)-one | BrCCCCN1C(CCC2=CC=CC=C12)=O | C13H16BrNO
product | 5-Chloro-3-{1-[4-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)butan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride | Cl.ClC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCCCN1C(CCC2=CC=CC=C12)=O | InChI=1S/C26H30ClN3O.ClH/c27-21-8-9-24-22(17-21)23(18-28-24)19-11-15-29(16-12-19)13-3-4-14-30-25-6-2-1-5-20(25)7-10-26(30)31;/h1-2,5-6,8-9,17-19,28H,3-4,7,10-16H2;1H
